US08461134B2
A solution of 1-(bromomethyl)-3-nitrobenzene (30 g, 0.14 mol) in DMF (200 mL) was heated to 70° C., then sodium cyanide (17 g, 0.21 mol) was added slowly. The reaction mixture was stirred at 70° C. for 5 hours. The reaction was terminated by addition of water. The aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate. The crude product was purified by silica gel column chromatography (petroleum ether/ethyl acetate=10:1) to give 2-(3-nitrophenyl)acetonitrile (12.5 g, yield 33%). 1H NMR: 400 MHz CDCl3 δ 8.15-8.14 (m, 2H), 7.66-7.64 (m, 1H), 7.56-7.52 (m, 1H), 3.82 (s, 2H).

reactant | 1-(bromomethyl)-3-nitrobenzene | 0.14 mol, 30 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | sodium cyanide | 0.21 mol, 17 g | [C-]#N.[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-(3-nitrophenyl)acetonitrile | 12.5 g, yield 33% | [N+](=O)([O-])C=1C=C(C=CC1)CC#N | C8H6N2O2
